US09193716B2
When 4-hydroxybenzaldehyde was substituted for 4-bromophenol in Example 31, Step A, the similar procedure afforded 3-(1-admantanyl)-4-hydroxybenzaldehyde in 56% yield, as a pale white solid. 1H-NMR (CDCl3) 9.84 (s, 1H); 7.78 (d, 1H, J=2.07 Hz); 7.61 (dd, 1H, J=8.13, 2.01 Hz); 6.77 (d, 1H, J=8.16 Hz); 5.88 (bs, 1H); 2.12 (s, 6H); 2.09 (s, 3H); 1.78 (s, 6H). This was methylated by similar procedure as described in Example 31, Step B, to give the title compound in 64% yield, as light yellow solid. 1H-NMR (CDCl3) 9.86 (s, 1H); 7.76 (d, 1H, J=2.07 Hz); 7.7 (dd, 1H, J=8.4, 2.1 Hz); 6.95 (d, 1H, J=8.4 Hz); 3.91 (s, 3H); 2.09 (s, 9H); 1.76 (s, 6H).

reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 4-bromophenol | BrC1=CC=C(C=C1)O | C6H5BrO
product | 3-(1-admantanyl)-4-hydroxybenzaldehyde | 56% yield | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=O)C=CC2O | C17H20O2
